* C:\Users\maruzka\Documents\Kicad\envcity_aqm_v2\simulacoes\power_path\Draft2.asc
M1 N006 N003 N002 N002 AO6407
R1 N006 0 100
V1 N002 0 5
V2 N003 0 0
M2 N004 N005 0 0 Si7336ADP
V3 N005 0 3.3
R2 N001 N004 100
V4 N001 0 9
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\maruzka\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m
.backanno
.end
