* C:\Users\maruzka\Documents\Kicad\envcity_aqm_v2\simulacoes\power_path\powerpath_heltec_adaptado.asc
V1 Vin2 0 5 Rser=0.5
M1 Vbat N009 Vout2 Vout2 FDR840P
R1 Vsolar N009 10k
V2 Vbat 0 3
V3 Vin1 0 5 Rser=0
M2 N001 N006 Vsolar Vsolar Si4403DY
Q1 N003 N003 N001 0 2N2907
Q2 N006 N003 Vsolar 0 2N2907
R4 N006 0 47k
R5 N003 0 10k
M3 N002 N007 Vsolar Vsolar Si4403DY
Q3 N004 N004 N002 0 2N2907
Q4 N007 N004 Vsolar 0 2N2907
R6 N007 0 47k
R7 N004 0 10k
M4 Vsolar N008 Vout2 Vout2 Si4403DY
Q5 N005 N005 Vsolar 0 2N2907
Q6 N008 N005 Vout2 0 2N2907
R8 N008 0 47k
R9 N005 0 10k
I1 Vout2 0 500m
R2 0 Vsolar 10k
.model NPN NPN
.model PNP PNP
.lib C:\Users\maruzka\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\maruzka\Documents\LTspiceXVII\lib\cmp\standard.mos
.meas Pin AVG V(Vin1)*-I(V3)
.meas Pout AVG V(Vout2)*i
.meas eff param Pout/Pin
;.step param i 10m 1 25m
* .tran 10m\n.model SW sw()
.tran 50m
.backanno
.end
